US07427613B2
Cyclopropyl-(5-fluoro-2-methoxybenzyl)amine
Synthesized according to typical procedure J from 5-fluoro-2-methoxybenzaldehyde and cyclopropylamine.

reactant | 5-fluoro-2-methoxybenzaldehyde | FC=1C=CC(=C(C=O)C1)OC | C8H7FO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(5-fluoro-2-methoxybenzyl)amine | C1(CC1)NCC1=C(C=CC(=C1)F)OC | C11H14FNO
